US07468375B2
Step 3: Ethyl 1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate
A suspension of ethyl 2,3-dibromo-1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (52.0 g, 0.110 mol) and 10% Pd/C (0.5 g) in ethanol (2.0 L) was shaken in a Parr shaker under hydrogen (39 psi) for 23 h. The catalyst was removed by filtration. On concentration of the filtrate, the product precipitated out. It was collected by filtration and dried under vacuum to provide the title compound. (34 g, 98% yield) 1H NMR (DMSO-d6) δ ppm 11.66 (s, 1H), 8.89 (s, 1H), 8.14 (d, J=3.0 Hz, 1H) 7.37 (d, J=5.7 Hz, 2H), 7.19 (d, J=6.6 Hz, 2H), 7.11 (d, J=3.0 Hz, 1H), 5.71 (s, 2H), 4.45 (q, J=7.1 Hz, 2H), 1.37 (t, J=7.2 Hz, 3H). LC/MS (API-ES, M+H+): 315.1.

reactant | ethyl 2,3-dibromo-1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 0.110 mol, 52.0 g | BrC1=C(C=2C(=CN=C(C2O)C(=O)OCC)N1CC1=CC=C(C=C1)F)Br | C17H13Br2FN2O3
solvent | ethanol | 2.0 L | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | Ethyl 1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 98% yield | FC1=CC=C(CN2C=CC=3C2=CN=C(C3O)C(=O)OCC)C=C1 | C17H15FN2O3
